### PR TITLE
[Merged by Bors] - feat(DiscreteValuationRing/Basic): a ring equivalent to a DVR is a DVR

### PR DESCRIPTION
**Pull request by faenuccio**
We add the lemma saying that if a ring is isomorphic to a DVR it is itself a DVR.

Co-authored-by: María Ines de Frutos Fernández @mariainesdff 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 1]
```diff
@@ -296,6 +293,21 @@ theorem ofHasUnitMulPowIrreducibleFactorization {R : Type u} [CommRing R] [IsDom
   obtain ⟨p, hp, H⟩ := hR
   exact ⟨p, hp⟩
 
+/- If a ring is equivalent to a DVR, it is itself a DVR. -/
+theorem RingEquiv.isDiscreteValuationRing {A B : Type*} [CommRing A] [IsDomain A] [CommRing B]
+    [IsDomain B] [IsDiscreteValuationRing A] (e : A ≃+* B) : IsDiscreteValuationRing B where
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean:298]: Should it be generalized to `RingEquivClass`?

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 2]
```diff
@@ -296,6 +293,21 @@ theorem ofHasUnitMulPowIrreducibleFactorization {R : Type u} [CommRing R] [IsDom
...
+  not_a_field' := by
+    obtain ⟨a, ha⟩ := Submodule.nonzero_mem_of_bot_lt (bot_lt_iff_ne_bot.mpr
+      <| IsDiscreteValuationRing.not_a_field A)
+    rw [Submodule.ne_bot_iff]
+    refine ⟨e a, ⟨?_, by simp only [ne_eq, EmbeddingLike.map_eq_zero_iff, ZeroMemClass.coe_eq_zero,
+      ha, not_false_eq_true]⟩⟩
+    rw [IsLocalRing.mem_maximalIdeal, map_mem_nonunits_iff e, ← IsLocalRing.mem_maximalIdeal]
+    exact a.2
+
+
```
Comment (jcommelin) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean:310]:
```suggestion
```

**Comment by kbuzzard** [comment]
Thanks a lot!

bors merge
